US05192786
4'-Chloro-4-(1H-imidazol-1-ylpropoxy) benzophenone hydrochloride
A solution of the 4'-chloro-4-chloropropoxybenzophenone (3.0 g, 9.7 mmol) and imidazole (1.3 g, 19 mmol) in 2-methoxyethyl ether (20 mL) was heated to 120° C. for 24 hours. The solvent was removed by distillation and the resulting residue was chromatographed (flash, SiGel, 9:1 CH2Cl2 -MeOH). The hydrochloride salt was made in HCl/MeOH and recrystallized from acetone to give 1.2 g (36%) of the title compound as a white solid. m.p. 210°-212° C. IR (KBr): 1645, 1601cm-1. MS: 341 (MH) . 1H NMR (CD3OD): δ9.00(s,1H), 7.89-6.87(m,10H), 4.11(t,2H), 3.45(t,2H), 2.11(m,2H).

reactant | 4'-chloro-4-chloropropoxybenzophenone | 9.7 mmol, 3.0 g | ClC1=CC=C(C=C1)C(C1=CC=C(C=C1)OCCCCl)=O | C16H14Cl2O2
reactant | imidazole | 19 mmol, 1.3 g | N1C=NC=C1 | C3H4N2
solvent | 2-methoxyethyl ether | 20 mL | COCCOCCOC | C6H14O3
product | 4'-Chloro-4-(1H-imidazol-1-ylpropoxy) benzophenone hydrochloride | 1.2 g, 36% | Cl.ClC1=CC=C(C=C1)C(C1=CC=C(C=C1)OCCCN1C=NC=C1)=O | InChI=1S/C19H17ClN2O2.ClH/c20-17-6-2-15(3-7-17)19(23)16-4-8-18(9-5-16)24-13-1-11-22-12-10-21-14-22;/h2-10,12,14H,1,11,13H2;1H
